US04826869
1-Butyl-2-(3'-ureidobenzyl)pyrrolidine
A suspension of 1.25 g (4.6 mmol) of 1-butyl-2-(3'-ureidobenzyl)pyrrole, prepared, for example, as described in Preparation 6D, in a mixture of 75 ml of water, 75 ml of methanol and 10 ml of a 1N solution of hydrochloric acid in methanol, was hydrogenated at 45 p.s.i. in the presence of 1 g of 5% rodium on activated alumina as catalyst, for 1 hour. The catalyst was then separated by filtration and the filtrate evaporated in vacuo. The aqueous residue was treated with concentrated ammonium hydroxide until an alkaline pH was obtained, and the product extracted with ethyl acetate (3×50 ml). The combined extracts were washed with water (2×50 ml), dried and evaporated under reduced pressure. The residue was purified by column chromatography on 100 g of silica gel, using an (80:20) mixture of methylene chloride-[chloroform-methanol-ammonium hydroxide (60:10:1)] as the eluting system, thus obtaining 550 mg (44%) of the title compound, 1-butyl-2-(3'-ureidobenzyl)pyrrolidine, which was recrystallized from acetone-hexane. M.P. 80°-83° C.

reactant | 1-butyl-2-(3'-ureidobenzyl)pyrrole | 4.6 mmol, 1.25 g | C(CCC)N1C(=CC=C1)CC1=CC(=CC=C1)NC(=O)N | C16H21N3O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 75 ml | O | H2O
solvent | methanol | CO | CH4O
solvent | methanol | 75 ml | CO | CH4O
product | 1-Butyl-2-(3'-ureidobenzyl)pyrrolidine | 550 mg, 44% | C(CCC)N1C(CCC1)CC1=CC(=CC=C1)NC(=O)N | C16H25N3O
